US04487929
1.1 g of methyl 2-(2-acetylthioethyl)-2,3,5,8-tetrahydro-2-methyl-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate (diastereomer A) were heated under reflux for 3 hours with 25 ml of 2 M hydrochloric acid. After evaporation, the residue was taken up in dichloromethane, the solution was dried over magnesium sulfate and then evaporated. There was obtained 0.35 g (38%) of 2,3,5,8-tetrahydro-2-(2-mercaptoethyl)-2-methyl-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid (diastereomer A) in the form of a white solid having a melting point of 113°-114° C. (from diethyl ether/petroleum ether).

reactant | methyl 2-(2-acetylthioethyl)-2,3,5,8-tetrahydro-2-methyl-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 1.1 g | C(C)(=O)SCCC1(C(N2N(CC=CC2C(=O)OC)C1=O)=O)C | C14H18N2O5S
reactant | hydrochloric acid | 2 M, 25 ml | Cl | ClH
product | 2,3,5,8-tetrahydro-2-(2-mercaptoethyl)-2-methyl-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid | 0.35 g, 38% | SCCC1(C(N2N(CC=CC2C(=O)O)C1=O)=O)C | C11H14N2O4S
